*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-1N2
* Inductance = 1.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-26GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-1N2_freq port1 port2 PARAMS: Cpar=0.02588pF Ind=1.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=50
+ R2=0.035
+ C= {Cpar}
+ K1=0.00000554
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=934.573063
.ends 0402CT-1N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-2N0
* Inductance = 2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-24GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-2N0_freq port1 port2 PARAMS: Cpar=0.02348pF Ind=2nH
X1 port1 port2 Model2A PARAMS:
+ R1=65
+ R2=0.04
+ C= {Cpar}
+ K1=0.00000794
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1318.06523
.ends 0402CT-2N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-3N0
* Inductance = 3nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-24GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-3N0_freq port1 port2 PARAMS: Cpar=0.01748pF Ind=3nH
X1 port1 port2 Model2A PARAMS:
+ R1=57.7
+ R2=0.05
+ C= {Cpar}
+ K1=0.00001124
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2918.92239
.ends 0402CT-3N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-3N9
* Inductance = 3.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-18GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-3N9_freq port1 port2 PARAMS: Cpar=0.02548pF Ind=3.9nH
X1 port1 port2 Model2A PARAMS:
+ R1=14.85
+ R2=0.07
+ C= {Cpar}
+ K1=0.00001274
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9305.95656
.ends 0402CT-3N9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-4N7
* Inductance = 4.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-17GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-4N7_freq port1 port2 PARAMS: Cpar=0.02155pF Ind=4.7nH
X1 port1 port2 Model2A PARAMS:
+ R1=17.25
+ R2=0.06
+ C= {Cpar}
+ K1=0.00001844
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11152.8947
.ends 0402CT-4N7_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-5N6
* Inductance = 5.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-18GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-5N6_freq port1 port2 PARAMS: Cpar=0.02737pF Ind=5.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=1.125
+ R2=0.08
+ C= {Cpar}
+ K1=0.00001924
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=61880.7332
.ends 0402CT-5N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-6N8
* Inductance = 6.80000000000001nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-18GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-6N8_freq port1 port2 PARAMS: Cpar=0.0322pF Ind=6.80000000000001nH
X1 port1 port2 Model2A PARAMS:
+ R1=8.775
+ R2=0.07
+ C= {Cpar}
+ K1=0.00002324
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18884.0704
.ends 0402CT-6N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-7N5
* Inductance = 7.50000000000001nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-7N5_freq port1 port2 PARAMS: Cpar=0.01928pF Ind=7.50000000000001nH
X1 port1 port2 Model2A PARAMS:
+ R1=11.88
+ R2=0.08
+ C= {Cpar}
+ K1=0.00002594
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26175.5451
.ends 0402CT-7N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-8N2
* Inductance = 8.20000000000001nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-8N2_freq port1 port2 PARAMS: Cpar=0.02428pF Ind=8.20000000000001nH
X1 port1 port2 Model2A PARAMS:
+ R1=8.78
+ R2=0.08
+ C= {Cpar}
+ K1=0.00002774
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28804.9453
.ends 0402CT-8N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-9N0
* Inductance = 9.00000000000002nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-18GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-9N0_freq port1 port2 PARAMS: Cpar=0.0292pF Ind=9.00000000000002nH
X1 port1 port2 Model2A PARAMS:
+ R1=10.84
+ R2=0.1
+ C= {Cpar}
+ K1=0.00002934
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22425.3071
.ends 0402CT-9N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-9N5
* Inductance = 9.50000000000002nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-17GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-9N5_freq port1 port2 PARAMS: Cpar=0.0296pF Ind=9.50000000000002nH
X1 port1 port2 Model2A PARAMS:
+ R1=15.74
+ R2=0.1
+ C= {Cpar}
+ K1=0.00003215
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17013.2835
.ends 0402CT-9N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-18GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-10N_freq port1 port2 PARAMS: Cpar=0.0368pF Ind=10nH
X1 port1 port2 Model2A PARAMS:
+ R1=10.14
+ R2=0.11
+ C= {Cpar}
+ K1=0.00003494
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20401.3265
.ends 0402CT-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-17GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-12N_freq port1 port2 PARAMS: Cpar=0.03481pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=8.94
+ R2=0.135
+ C= {Cpar}
+ K1=0.00004444
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26806.7754
.ends 0402CT-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-17GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-15N_freq port1 port2 PARAMS: Cpar=0.02795pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=11.64
+ R2=0.15
+ C= {Cpar}
+ K1=0.00005524
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=32510.5192
.ends 0402CT-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-16N
* Inductance = 16nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-12GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-16N_freq port1 port2 PARAMS: Cpar=0.02555pF Ind=16nH
X1 port1 port2 Model2A PARAMS:
+ R1=5.82
+ R2=0.165
+ C= {Cpar}
+ K1=0.00006244
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=55129.175
.ends 0402CT-16N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-12GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-18N_freq port1 port2 PARAMS: Cpar=0.03125pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=11.64
+ R2=0.24
+ C= {Cpar}
+ K1=0.00006784
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33498.6701
.ends 0402CT-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-20N
* Inductance = 20nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-16GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-20N_freq port1 port2 PARAMS: Cpar=0.02653pF Ind=20nH
X1 port1 port2 Model2A PARAMS:
+ R1=14.44
+ R2=0.3
+ C= {Cpar}
+ K1=0.00007184
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=36939.5266
.ends 0402CT-20N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-22N_freq port1 port2 PARAMS: Cpar=0.029pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=16
+ R2=0.26
+ C= {Cpar}
+ K1=0.000085
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33356.9499
.ends 0402CT-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-12GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-27N_freq port1 port2 PARAMS: Cpar=0.0266pF Ind=27nH
X1 port1 port2 Model2A PARAMS:
+ R1=25
+ R2=0.36
+ C= {Cpar}
+ K1=0.000103
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=30827.8449
.ends 0402CT-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-33N_freq port1 port2 PARAMS: Cpar=0.022pF Ind=33nH
X1 port1 port2 Model2A PARAMS:
+ R1=55
+ R2=0.4
+ C= {Cpar}
+ K1=0.00012
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23380.8358
.ends 0402CT-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-39N
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-39N_freq port1 port2 PARAMS: Cpar=0.0208pF Ind=39nH
X1 port1 port2 Model2A PARAMS:
+ R1=35
+ R2=0.825
+ C= {Cpar}
+ K1=0.000128
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42085.784
.ends 0402CT-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-47N
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-47N_freq port1 port2 PARAMS: Cpar=0.02pF Ind=47nH
X1 port1 port2 Model2A PARAMS:
+ R1=50
+ R2=0.9
+ C= {Cpar}
+ K1=0.00075
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=22615.1158
.ends 0402CT-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402CT-56N
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402CT-56N_freq port1 port2 PARAMS: Cpar=0.015pF Ind=56nH
X1 port1 port2 Model2A PARAMS:
+ R1=40
+ R2=1.25
+ C= {Cpar}
+ K1=0.000195
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=68581.9923
.ends 0402CT-56N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
